US09422281B2
A 3-L, three-necked, round bottomed flask fitted with a nitrogen inlet, overhead stirrer, and thermocouple was charged with (S)-N-(5-bromo-2-(1-hydroxypropan-2-ylamino)phenyl)-4-methylbenzenesulfonamide (77.0 g, 193 mmol), THF (1925 mL), and triphenylphosphine (60.7 g, 231 mmol). The solution was cooled to 0° C., and diisopropyl azodicarboxylate (DIAD) (41.2 mL, 212 mmol) was slowly added while maintaining the internal temperature below 7° C. The reaction mixture stirred at 0° C. for 1.5 h and was then warmed to room temperature. The mixture was concentrated and the residue was purified by column chromatography on silica gel (eluting with dichloromethane). The product-containing fraction were combined and concentrated under reduced pressure. The material was treated with a mixture of 4:1 hexanes-dichloromethane, and the slurry was stirred for 3 h and then filtered. The solids were rinsed with cold (ca. 0° C.) solution of 4:1 hexanes-dichloromethane (50 mL) and dried to afford (S)-7-bromo-3-methyl-1-tosyl-1,2,3,4-tetrahydroquinoxaline (61.8 g, 84%) as a white solid. MS (ESI, pos. ion) m/z 381 [M+1]+.

reactant | (S)-N-(5-bromo-2-(1-hydroxypropan-2-ylamino)phenyl)-4-methylbenzenesulfonamide | 193 mmol, 77.0 g | BrC=1C=CC(=C(C1)NS(=O)(=O)C1=CC=C(C=C1)C)N[C@H](CO)C | C16H19BrN2O3S
reactant | triphenylphosphine | 231 mmol, 60.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 212 mmol, 41.2 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 1925 mL | C1CCOC1 | C4H8O
product | (S)-7-bromo-3-methyl-1-tosyl-1,2,3,4-tetrahydroquinoxaline | 61.8 g, 84% | BrC1=CC=C2N[C@H](CN(C2=C1)S(=O)(=O)C1=CC=C(C)C=C1)C | C16H17BrN2O2S
